US07737166B2
6-(3-Aminophenyl)-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-178)
6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-77) (150 mg, 0.51 mmol) and 3-aminophenylboronic acid monohydrate (315 mg, 2.03 mmol) were dissolved in 1,4-dioxane (5 ml), then at room temperature, tripotassium phosphate (216 mg, 1.02 mmol) and then tetrakis(triphenylphosphine)palladium(0) (118 mg, 0.10 mmol) were added. The suspension was stirred under nitrogen atmosphere at 95° C. for 12 hours. After cooling to room temperature, the solution was fractionated with ethyl acetate and saturated brine. The aqueous layer was extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=2:1) to obtain the entitled compound (170 mg, quant.) as a white amorphous substance.

reactant | 6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.51 mmol, 150 mg | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
reactant | 3-aminophenylboronic acid monohydrate | 2.03 mmol, 315 mg | O.NC=1C=C(C=CC1)B(O)O
reactant | tripotassium phosphate | 1.02 mmol, 216 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 mmol, 118 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3-Aminophenyl)-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | NC=1C=C(C=CC1)C=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C18H14FN3O
